US05561128
4-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butyl acetate fumarate
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (9.5 g, 41 mmol), K2CO3 (7.2 g, 51 mmol), and 4-bromobutyl acetate (10 g, 51 mmol) in acetonitrile (200 ml) was heated at reflux for 3.5 hours. At the end of the reaction, the solution was cooled and filtered. The inorganic salt was washed with DCM (50 ml). The organic solvent was removed. The residue was purified on a flash chromatography column (packed with Sorbsil C30 silica gel, 100 g, eluted with DCM, 1 liter, increasing methanol from 2 to 4%, 2.51). The material thus purified weighed 12.92 g (89%). A small sample (1.67 g) was dissolved in ethanol and treated with I equivalent of fumaric acid (580 mg) in ethanol to yield white crystals: 1.8 g, m.p.=142°-143° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 41 mmol, 9.5 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 51 mmol, 7.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromobutyl acetate | 51 mmol, 10 g | C(C)(=O)OCCCCBr | C6H11BrO2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 4-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butyl acetate fumarate | C(\C=C\C(=O)O)(=O)O.C(C)(=O)OCCCCN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | InChI=1S/C18H23FN2O3.C4H4O4/c1-13(22)23-11-3-2-8-21-9-6-14(7-10-21)18-16-5-4-15(19)12-17(16)24-20-18;5-3(6)1-2-4(7)8/h4-5,12,14H,2-3,6-11H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
